Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
amoxicillin
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
HISTORY OF PRESENT ILLNESS:
___ PMH BPH s/p TURP ___ p/w RLQ abdominal pain since ___. 
Feels like a muscle strain. Does not recall inciting incident. 
Non-radiating. No f/c/n/v/d. Last BM ___ before 
that, both normal. Passing gas. No sick contacts or recent 
travel. Has not happened before. No recent EtOH or large meals. 
Of note, patient in ___ ED ___ for fever, blood in urine, CT 
showed enlarged prostate, foley was placed, he was given 
levaquin course, and outpatient urology f/u. No further f/c and 
urine is clear yellow. Patient noted to be orthostatic and 
hypotensive to 80/50 and tachycardic to 109 in ___ clinic today 
so referred to the ED.
In the ED, initial vitals were: T 98.4 HR 98 BP 133/75 RR 16 
SpO2 97% RA. ED exam was unremarkable for suprapubic or CVA 
tenderness. Initial labs notable for leukocytosis 15.6, H/H 
13.9/41.7, Cr 0.8, lactate 1.7. trop <0.01. UA with large leuks 
and pyuria. Chest CTA was most notable for right lower lobe 
opacity with a trace right pleural effusion, subsegmental and 
segmental pulmonary emboli involve the right middle and right 
lower lobe. There was also pulmonary embolism involving the 
distal right lobar pulmonary artery branching into the segmental 
branches. There was also trace layering and nonhemorrhagic right 
pleural effusion. Abd CT demonstrated enlarged prostate but no 
colitis or other acute process. In the ED, the patient was given 
a total of 2 L NS, IV CTX 1 g, and started on heparin gtt with 
7500 unit bolus. On the floor, the patient denied any chest 
pain, dyspnea, abdominal pain, fevers, chills, nausea, vomiting. 
He remained hemodynamically stable.
Review of systems:
As per HPI, otherwise negative in detail
 
Past Medical History:
-Benign Prostatic Hypertrophy s/p TURP ___
-S/P mastoidectomy, tympanoplasty ___
 
Social History:
___
Family History:
Father had COPD. Denies family history of coagulopathy or 
clotting.
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
VS T 98.8 HR 106 BP 152/68 RR 19 SpO2 95% RA
General: Well-appearing in NAD
HEENT: Sclera clear, MMM, no OP lesions
Neck: Supple, no lymphadenopathy or JVD
CV: Tachycardic, normal rhythm, no m,r,g.
Lungs: No wheezing, crackles, or rhonci
Abdomen: Soft, NT, ND. +Suprapubic tenderness
GU: Foley in place
Ext: No ___ edema or asymmetry
Neuro: Moving all extremities with purpose. No facial asymmetry.

DISCHARGE PHYSICAL EXAM:
VS: 99.0 114/66 78 18 94%RA
General: Well-appearing in NAD
HEENT: Sclera clear, MMM, no OP lesions, PERRL
Neck: Supple, no lymphadenopathy or JVD
CV: regular rate and rhythm, no m,r,g.
Lungs: CTAB, No wheezing, crackles, or rhonchi
Abdomen: No tenderness to palpation, soft, NT, ND. Abdominal 
diastasis.
GU: Foley in place. Red blood in bag, currently draining yellow 
urine with no clots.
Ext: No ___ edema or asymmetry, 2+ DP pulses
Neuro: Grossly normal.
 
Pertinent Results:
ADMISSION LABS:

___ 04:00PM BLOOD WBC-15.6* RBC-4.82 Hgb-13.9 Hct-41.7 
MCV-87 MCH-28.8 MCHC-33.3 RDW-13.6 RDWSD-41.6 Plt ___
___ 04:00PM BLOOD Neuts-81.0* Lymphs-9.3* Monos-8.7 
Eos-0.4* Baso-0.3 Im ___ AbsNeut-12.59* AbsLymp-1.45 
AbsMono-1.35* AbsEos-0.06 AbsBaso-0.05
___ 01:55AM BLOOD ___ PTT-61.9* ___
___ 04:00PM BLOOD Glucose-103* UreaN-11 Creat-0.8 Na-133 
K-6.8* Cl-99 HCO3-21* AnGap-20
___ 04:00PM BLOOD ALT-23 AST-53* AlkPhos-176* TotBili-0.7
___ 04:00PM BLOOD Lipase-29
___ 04:00PM BLOOD CK-MB-7 cTropnT-<0.01 proBNP-36
___ 06:00AM BLOOD Calcium-8.7 Phos-3.0 Mg-2.1
___ 04:00PM BLOOD Albumin-3.9
___ 06:32PM BLOOD K-4.0
___ 04:19PM BLOOD Lactate-1.7

___ 03:30PM URINE Color-Yellow Appear-Hazy Sp ___
___ 03:30PM URINE Blood-LG Nitrite-NEG Protein-100 
Glucose-NEG Ketone-40 Bilirub-NEG Urobiln-NEG pH-6.0 Leuks-LG
___ 03:30PM URINE RBC-28* WBC-165* Bacteri-NONE Yeast-FEW 
Epi-<1 RenalEp-<1
___ 03:30PM URINE Mucous-MOD

MICRO:
___ URINE CULTURE (Final ___: YEAST. >100,000 
ORGANISMS/ML
___ BLOOD CULTURE: No Growth To Date

IMAGING:
___ CT ABDOMEN/PELVIS: 
1.  Right lower lobe opacity with a trace right pleural 
effusion. In light of possible filling defect in a right lower 
lobe subsegmental pulmonary arterial branch, possibility of a 
pulmonary embolus with infarct should be considered 
Alternatively, findings could represent combination of 
atelectasis and/or infection.
2.  Three hepatic hypodensities, the largest which measures up 
to 1.4 cm, are likely hepatic cysts or alternatively biliary 
hamartomas.
3.  Markedly enlarged prostate gland. 
4.  Normal appendix.  No evidence of colitis.

___ CTA CHEST:
1.  Subsegmental and segmental pulmonary emboli involve the 
right middle and right lower lobe.  There is also pulmonary 
embolism involving the distal right lobar pulmonary artery 
branching into the segmental branches. Findings are associated 
with nonspecific peribronchiolar nodular opacities within the 
right lower lobe, likely atelectasis with possible superimposed 
pulmonary infarction.
2. Trace layering and nonhemorrhagic right pleural effusion. 
3.  For complete subdiaphragmatic findings, please refer to CT 
abdomen and pelvis performed on the same date, clip number 
___.

___ CXR: 
Heart is mildly enlarged.  Nonspecific bibasilar opacities are 
potentially due to history of pulmonary embolism with or without 
coexisting atelectasis or infectious consolidation.  Small 
pleural effusions are present, right greater than left.

DISCHARGE LABS:
___ 12:55PM BLOOD WBC-8.5 RBC-4.29* Hgb-12.0* Hct-37.1* 
MCV-87 MCH-28.0 MCHC-32.3 RDW-13.4 RDWSD-41.6 Plt ___
___ 08:55PM BLOOD ___ PTT-33.2 ___
___ 06:25AM BLOOD Glucose-124* UreaN-10 Creat-0.7 Na-138 
K-3.5 Cl-105 HCO3-24 AnGap-13
___ 06:25AM BLOOD PSA-25.7*
 
Brief Hospital Course:
___ y.o. man with history of BPH s/p TURP in ___ who presented 
with abdominal pain and ?hypotension and found to have  
right-sided segmental and subsegmental PE.

#PULMONARY EMBOLISM: right-sided segmental and subsegmental PE. 
Unprovoked. Treated with heparin drip and transitioned to 
rivaroxaban for 6months anticoagulation. Will take rivaroxaban 
15mg BID through ___ and then transition to 20mg daily for 
duration of anticoagulation. Will need prescription for 20mg 
pills at follow-up appointment on ___.

#BPH: S/p TURP ___. Presented to ___ ED 2 weeks ago with 
urinary retention. Indwelling foley since that time. Markedly 
enlarged prostate to 7.2 x 5.2 x 5.8cm on CT scan here. 
Intermittent hematuria. Continued on finasteride 5mg PO QD. Plan 
for urology follow-up on ___ and evaluation. 

HEMATURIA: Pt presenting with intermittent episodes of 
hematuria. Stable during admission, except episode of hematuria 
night prior to discharge. Hemodynamically stable, no hct drop. 
Draining yellow urine at discharge. Pt has never had a 
cystoscopy to r/o malignancy. Per urology, okay to do cystoscopy 
on rivaroxaban. Thus decision was made for discharge with 
urology follow-up on ___ at which time can consider cystoscopy 
for evaluation of cause of hematuria.

#POSSIBLE UTI: Patient treated with Levofloxacin at ___ for UTI, 
but still ongoing symptoms. ___ UCx ___ negative, UCx ___ few 
enterococci. Patient finished levofloxacin ___. Patient started 
on CTX in ED. Final UCx here ___ Yeast, no Bacteria without 
associated symptoms thus antibiotics stopped. Yeast felt to be 
related to indwelling foley without systemic symptoms; not 
treated.

TRANSITIONAL ISSUES:
#pulmonary embolus - unclear if provoked vs. unprovoked. Needs 
age-appropriate cancer screening including colonoscopy and 
evaluation of hematuria as below.
#anticoagulation - patient newly started on rivaroxaban. 
Continue for 6 months as treatment of PE. 15mg twice a day 
(___), then 20mg once a day until ___.
#BPH - recurrent enlarged prostate ___ s/p TURP now with 
urinary retention and intermittent hematuria requiring 
indwelling foley since early ___. Needs Urology follow-up 
and management.
#Hematuria - intermittent hematuria over past several years, 
increasing in past several weeks. Concern for underlying 
malignancy. Needs Urology follow-up with likely cystoscopy. 
Follow-up scheduled for ___ at ___. 
#EtOH use - Some concern for alcohol abuse in patient without 
clear withdrawal here. Please follow-up with PCP.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Finasteride 5 mg PO DAILY 
2. Levofloxacin 500 mg PO Q24H 

 
Discharge Medications:
1. Rivaroxaban 15 mg PO BID 
with food 
RX *rivaroxaban [___] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth twice daily ___ then once daily Disp #*1 Dose Pack 
Refills:*0
2. Finasteride 5 mg PO DAILY 
3. OxycoDONE (Immediate Release)  5 mg PO Q4H:PRN pain 
Please do not operate heavy machinery or drive while taking this 
medication. 
RX *oxycodone 5 mg 1 tablet(s) by mouth Every 4 hours Disp #*15 
Tablet Refills:*0
4. Acetaminophen 1000 mg PO Q8H Pain Duration: 1 Week 
RX *acetaminophen 500 mg 2 tablets by mouth Every 8 hours Disp 
#*42 Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Pulmonary Embolus
Urinary retention/BPH
Hematuria

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___, 

You were admitted to the hospital because you were having 
abdominal pain and you had low blood pressure. At the hospital, 
you were found to have a large blood clot in your right lung. 
You were started on a blood thinner, which you have to continue 
when you go home. You will have 2 prescriptions for this. Please 
follow the directions on how to take them.

You are also known to have a large prostate, for which you had a 
foley catheter put in at ___ 1 week ago. We kept this catheter 
in while you were here. You had bleeding in the urine while you 
were here. Please follow-up with a Urologist (see below for your 
appointment). Because of a suspicion for a urine infection, you 
were treated with antibiotics while you were here until your 
urine culture was negative for bacteria.

It was a pleasure to take care of you. We wish you a speedy 
recovery. 

Sincerely,
 Your ___ Team
 
Followup Instructions:
___